US05599825
3) Synthesis of 3-methoxyethoxyethoxyethyl-5-(3-methylnaphtho[2,1-d]thiazolin-2-ylidene)thiazolidine-4-on-2-thion
2.5 g of 3-methyl-2-methylthionaphtho[2,1-d]thiazolium p-toluenesulfonate (synthesized from 2-methylthionaphtho[2,1-d]thiazole and methyl p-toluenesulfonate), 1.7 g of 3-methoxyethoxyethoxyethylthiazolidine-4-on-2-thion and 30 ml of acetonitrile were fed into a 100 ml three-necked flask, and cooled to 5° C. 1.2 g of triethylamine was added to the resultant mixture. After stirring at 10° C. for 4 hours, yellow precipitates thus formed were suction-filtered, washed with 10 ml of acetonitrile twice and dried to obtain the intended compound.

reactant | 3-methyl-2-methylthionaphtho[2,1-d]thiazolium p-toluenesulfonate | 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1=C(SC2=C1C=CC1=CC=CC=C12)SC
reactant | 3-methoxyethoxyethoxyethylthiazolidine-4-on-2-thion | 1.7 g | COCCOCCOCCN1C(SCC1=O)=S | C10H17NO4S2
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
product | 3-methoxyethoxyethoxyethyl-5-(3-methylnaphtho[2,1-d]thiazolin-2-ylidene)thiazolidine-4-on-2-thion | COCCOCCOCCN1C(SC(C1=O)=C1SC2=C(N1C)C=CC1=CC=CC=C12)=S | C22H24N2O4S3
